US04333928
1.9 g of 17α-ethynyl-17β-hydroxy-16α-methyl-5(10),9(11)-estradien-3-one is dissolved in 60 ml of benzene and 20 ml of methylene chloride and combined at room temperature dropwise with a solution of 3.5 g of dichlorodicyano-p-benzoquinone. The mixture is agitated for 5 hours at room temperature and worked up as described in Example A. Crystallization of ether yields 1.65 g of 17α-ethynyl-17β-hydroxy-16α-methyl-4,9,11-estratrien-3-one, m.p. 176°-179° C.

reactant | 17α-ethynyl-17β-hydroxy-16α-methyl-5(10),9(11)-estradien-3-one | 1.9 g | C(#C)[C@]1([C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC=3CC(CCC3C1=CC2)=O)O | C21H26O2
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | dichlorodicyano-p-benzoquinone | 3.5 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 17α-ethynyl-17β-hydroxy-16α-methyl-4,9,11-estratrien-3-one | 1.65 g | C(#C)[C@]1([C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1C=C2)=O)O | C21H24O2
